US07601844B2
Step 4: 3-(2-Carboxypropan-2-yl)benzoic acid
A solution of methyl 3-(1-methoxy-2-methyl-1-oxopropan-2-yl)benzoate (54 mg, 0.229 mmol) in methanol (2 mL) was treated with 1 M NaOH (aq) (1 mL, 1.000 mmol), and the mixture was stirred overnight at room temperature. The mixture was treated with 1.0 N HCl (aq) (1.2 mL), and the methanol was removed in-vacuo. The remaining aqueous mixture was freeze dried to yield a mixture of the title compound and sodium chloride as colorless powder, which was used as-is in the next step.

reactant | methyl 3-(1-methoxy-2-methyl-1-oxopropan-2-yl)benzoate | 0.229 mmol, 54 mg | COC(C(C)(C)C=1C=C(C(=O)OC)C=CC1)=O | C13H16O4
reactant | NaOH | 1.000 mmol, 1 M, 1 mL | [OH-].[Na+]
reactant | HCl | 1.0 N, 1.2 mL | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 3-(2-Carboxypropan-2-yl)benzoic acid | C(=O)(O)C(C)(C)C=1C=C(C(=O)O)C=CC1 | C11H12O4
